US04256902
To a suspension of 7 g of 1-phenylsemicarbazide in 100 ml of acetonitrile, cooled down to 0°-5° C., were added 7.4 g of β,β-dichloroacryloyl chloride, under stirring. The addition having been completed, the reaction mixture was stirred at 5° C. for 30 minutes and then at room temperature for 1 (one) hour. The solid that separated was collected by decanting and by filtration, then was washed with diethylether, thus obtaining 8 g of 1-(β,β-dichloroacryloyl)-1-phenyl-semicarbazide, in accordance with the elemental analysis and the I.R. and N.M.R. spectra.

reactant | 1-phenylsemicarbazide | 7 g | C1(=CC=CC=C1)NNC(=O)N | C7H9N3O
reactant | β,β-dichloroacryloyl chloride | 7.4 g | ClC(=CC(=O)Cl)Cl | C3HCl3O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(β,β-dichloroacryloyl)-1-phenyl-semicarbazide | 8 g | ClC(=CC(=O)N(NC(=O)N)C1=CC=CC=C1)Cl | C10H9Cl2N3O2
